US06903126B2
6-[[1-Phenyl-2-phenylamino-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester
200 mg of 6-(3-phenylamino-4-aminophenyl)oxyhexanoic acid methyl ester was dissolved in 1 ml of 1,2-dichloroethane, the solution was mixed with 85 μl of phenylisocyanide dichloride, and the mixture was heated for 6 hours to 65° C. After cooling, it was mixed with water, extracted three times with ethyl acetate, the combined organic phases were washed with saturated sodium chloride solution, dried on sodium sulfate and concentrated by evaporation in a vacuum. The residue was purified by column chromatography on silica gel. 55 mg was obtained.

reactant | 6-(3-phenylamino-4-aminophenyl)oxyhexanoic acid methyl ester | 200 mg | COC(CCCCCOC1=CC(=C(C=C1)N)NC1=CC=CC=C1)=O | C19H24N2O3
reactant | phenylisocyanide dichloride | 85 μl | C1=CC=C(C=C1)N=C(Cl)Cl | C7H5Cl2N
reactant | water | O | H2O
solvent | 1,2-dichloroethane | 1 ml | ClCCCl | C2H4Cl2
product | 6-[[1-Phenyl-2-phenylamino-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester | COC(CCCCCOC=1C=CC2=C(N(C(=N2)NC2=CC=CC=C2)C2=CC=CC=C2)C1)=O | C26H27N3O3
